Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ year old male with a past medical history 
significant for complete heart block s/p dual chamber ___ 
pacemaker placement in ___ who presents with worsening dyspnea 
on exertion. He was in his usual state of health until ___ days 
ago, when he noticed that with only minimal exertion he would 
feel his heart rate increase and become dyspneic. He has been 
feeling lightheaded during this time. He reports one episode of 
exertional retrosternal discomfort described as "warmth", 
non-radiating, and not associated with nausea or diaphoresis. 
This occurred 2 days prior to admission; after that he did not 
exert himself much. He denies any fevers, chills, N/V/D, URI sx, 
cough, abdominal pain. He denies bloody stools or changes in 
stool color but notes chronic constipation. He denies abdominal 
pain, dysuria or hematuria.  

In the ED, initial vitals were, 98.2 85 151/69 16 94% RA 

Upon arrival to the ED, the patient denied any current chest 
pain.  However, EKG was significant for concordant ST changes in 
the pre-cordial leads and he was subsequently given Aspirin 
325mg PO.  Labs were significant for troponnin 0.2 ___s a 
Hct of 30.4 from baseline of around 37-40 (was 41.6 in ___.  Given concern for ACS, the patient was initiated on a 
heparin gtt.

Cardiac review of systems is notable for absence of paroxysmal 
nocturnal dyspnea, orthopnea, ankle edema.
 
 
Past Medical History:
Complete Heart Block- s/p pacemaker placement in ___- (per 
recent OMR EP note- underlying intrinsic rhythm is complete 
heart block with no ventricular response, pacemaker is 
programmed in the DDD mode with a lower rate of 55 and an upper 
track rate of 130 beats per minute)
Osteoarthritis
Gait disturbance
Glaucoma
BPH 
 
 
Social History:
___
Family History:
Family history is non-contributory.  

 
Physical Exam:
ADMISSION
VS: T=97.8 BP=145/85 HR=72 RR=20 O2 sat=94%RA  
General: Elderly man walking from bathroom to bed in no distress
HEENT: normal mucous membranes, OP clear
Neck: JVD to earlobe on right, +HJR; small lipoma on left near 
earlobe
CV: RRR, nl s1/s2, no murmur appreciated
Lungs: decreased breath sounds with trace inspiratory crackles 
at bases
Abdomen: soft, NT, ND, normoactive BS
GU: no foley
Ext: warm, no edema  
Rectal: guiac positive
Neuro: AAOx3
Skin: multiple SKs,chronic venous stasis changes bilaterally 

DISCHARGE
VS: 98  120/66  77  18  94%RA  Wt 200.3lb
General: Elderly man in no distress
HEENT: normal mucous membranes, OP clear
Neck: No obvious JVD; small lipoma on left near earlobe
CV: RRR, nl s1/s2, no murmur appreciated
Lungs: decreased breath sounds with trace inspiratory crackles 
at bases
Abdomen: soft, NT, ND, normoactive BS
GU: no foley
Ext: warm, no edema  
Neuro: AAOx3
Skin: multiple SKs,chronic venous stasis changes bilaterally 
 
Pertinent Results:
ADMISSION LABS
___ 12:54PM BLOOD WBC-7.1 RBC-3.54*# Hgb-9.4*# Hct-30.4*# 
MCV-86 MCH-26.4*# MCHC-30.8* RDW-15.0 Plt ___
___ 12:54PM BLOOD Neuts-81.9* Lymphs-12.6* Monos-4.6 
Eos-0.4 Baso-0.6
___ 03:50AM BLOOD ___ PTT-57.2* ___
___ 12:54PM BLOOD Glucose-135* UreaN-19 Creat-1.0 Na-140 
K-3.9 Cl-106 HCO3-23 AnGap-15
___ 12:54PM BLOOD cTropnT-0.20*
___ 09:00PM BLOOD CK-MB-8 cTropnT-0.19*
___ 12:54PM BLOOD Calcium-8.7 Phos-3.6 Mg-2.0 Iron-15*
___ 12:54PM BLOOD calTIBC-332 Hapto-306* Ferritn-21* 
TRF-255
___ 12:54PM BLOOD LD(LDH)-192 CK(CPK)-138 TotBili-0.3
___ 01:05PM BLOOD Lactate-1.9

ECG ___: Sinus rhythm. Prlonged P-R interval with 
ventricular pacing. Compared to the previous tracing of ___ 
there is now ventriclar pacing.  

CXR ___: 
FINDINGS:  There is moderate cardiomegaly with mildly tortuous 
thoracic aorta. The central pulmonary vasculature is engorged 
with ill-defined borders and diffuse increased reticulation 
compatible with moderate pulmonary edema. There is no pleural 
effusion or pneumothorax.  A left-sided dual-lead pacer is 
unchanged in position compared to ___. 
  
IMPRESSION:  Moderate cardiomegaly with moderate interstitial 
pulmonary edema. No focal consolidation to suggest superimposed 
pneumonia. 

ECHOCARDIOGRAM ___
The left atrium is mildly dilated. There is mild symmetric left 
ventricular hypertrophy with normal cavity size. There is mild 
regional left ventricular systolic dysfunction with hypokinesis 
of the distal half of the anterior septum and anterior walls. 
The apex is mildly dyskinetic. The remaining segments contract 
normally (LVEF = 45 %). No intraventricular thrombus is seen. 
Tissue Doppler imaging suggests an increased left ventricular 
filling pressure (PCWP>18mmHg). Right ventricular chamber size 
and free wall motion are normal. The aortic valve leaflets (3) 
appear structurally normal with good leaflet excursion and no 
aortic stenosis or aortic regurgitation. The mitral valve 
leaflets are mildly thickened. There is no mitral valve 
prolapse. Mild to moderate (___) mitral regurgitation is seen. 
There is mild pulmonary artery systolic hypertension. There is 
no pericardial effusion. 

IMPRESSION: Mild symmetric left ventricular hypertrophy with 
mild regional systolic dysfunction c/w CAD (mid-LAD 
distribution). Mild-moderate mitral regurgitation. Pulmonary 
artery hypertension. Increased PCWP. 

CLINICAL IMPLICATIONS: 
Based on ___ AHA endocarditis prophylaxis recommendations, the 
echo findings indicate prophylaxis is NOT recommended. Clinical 
decisions regarding the need for prophylaxis should be based on 
clinical and echocardiographic data.  
 
Brief Hospital Course:
___ year old male with complete heart block s/p dual chamber 
___ pacemaker placement in ___ who presents with 
exertional chest pain and dyspnea found to have troponin 
elevation and EKG changes c/w NSTEMI in setting of new anemia.

# NSTEMI 
The patient presented due to ___ days of exertional chest 
pressure. Last episode of chest pain on ___. EKG is 
significant for concordant ST changes in V3-V5 and initial 
troponin was elevated to 0.2--> 0.19. The patient is chest pain 
free at rest, and upon admission. Pt likely had an acute 
coronary event, possibly exacerbated by demand mismatch in 
setting of anemia below. Pt did not want cardiac 
catheterization. He completed 48 hours of heparin drip and 
loaded with plavix. Given his likely chronic GI bleed (see 
below), upon discharge plavix was stopped, and the pt was 
maintained on aspirin 81 and metoprolol succinate 50mg. Echo on 
___ showed reduced LVEF 45% with hypokinesis of the distal half 
of the anterior septum and anterior walls, as well as apical 
dyskinesis. He was still feeling lightheaded when walking 
around, so addition of ACE-I was deferred to PCP.  

# Pulmonary edema: CXR showed moderate interstial edema. Pt 
denied orthopnea or PND, though pt did receive lasix 20 mg IV x 
1 for dyspnea on exertion. Likely flash pulmonary edema in 
setting of myocardial stunning from NSTEMI +/- new post-MI 
cardiomyopathy. On day of discharge, pt appeared euvolemic on 
exam. Pt's weight upon discharge was 200 lbs. He was still 
feeling slightly weak, his baseline over the past few months.

# Fe deficiency anemia (MCV 86)
Patient noted to have a Hct drop to 30.4 from baseline of 41.6 
in ___. Previous baseline in high ___. He endorses 
lightheadedness and weakness x months but denies melena or 
bloody stools. Ferritin 21, iron 15, c/w iron deficiency anemia. 
Stool noted to be soft, brown but guiac positive. Hemolysis labs 
negative. Likely chronic GI bleed, consider hemorrhoids, AVM, 
though normocytic anemia may represent mixed picture. Hct 
remained stable while on heparin drip and plavix. Pt started on 
Fe 325mg daily with senna/colace bowel regimen. PTP to follow up 
outpatient work up.

TRANSITIONAL ISSUES
- Pt newly diagnosed with heart failure, LVEF 45%, not 
discharged on ACE-I given global picture (elderly pt who was 
hesitant to take new medication; lightheadedness from anemia). 
Deferring decision to initiate ACEI to PCP.
- Pt with new Fe deficiency anemia; discharged on Fe 325mg and 
bowel regimen. PCP to follow up with possible GI work up.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. melatonin 1 mg oral hs prn insomnia 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO DAILY 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
3. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0
4. Ferrous Sulfate 325 mg PO DAILY 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet,delayed release 
(___) by mouth daily Disp #*30 Tablet Refills:*0
5. Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet extended release 24 
hr(s) by mouth daily Disp #*30 Tablet Refills:*0
6. Nitroglycerin SL 0.4 mg SL PRN chest pain 
RX *nitroglycerin 0.4 mg 1 tablet sublingually three times daily 
Disp #*90 Tablet Refills:*0
7. Senna 1 TAB PO HS 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth nightly Disp 
#*30 Tablet Refills:*0
8. melatonin 1 mg oral hs prn insomnia 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
NSTEMI
Fe deficiency anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure to take care of you during your stay at ___. 
You came in with chest pain, and we found that you had a small 
heart attack. We treated you with a blood thinner called heparin 
for 2 days. We also started you on a medication called 
metoprolol, to lower blood pressure and heart rate, and decrease 
the stress on the heart. We did an ultrasound of the heart which 
showed you had a mild decrease in heart function. We would like 
you to continue taking aspirin 81mg, and to also take metoprolol 
now. 

You were also feeling very weak and lightheaded. We found that 
your blood count was low. We found that there was occult blood 
in your stool, possibly due to hemorrhoids. You have a new 
anemia because you are slowly losing blood from your GI tract. 
When you chronically lose, blood, your bone marrow has to work 
hard to keep making blood, and eventually uses up all your iron 
stores to generate more blood. You iron stores are very 
depleted, so we recommend that you take an iron tablet daily to 
help your bone marrow make more blood. Once your blood counts 
are better, you may feel less weak and lightheaded. You should 
follow up with your PCP to see how we can stop the chronic blood 
loss from the GI tract. This may involve a colonoscopy. 
 
Followup Instructions:
___